US06004985
To a solution of 4-(2-methoxycarbonylphenyl)thio-2,3,5,6-tetrafluoropyridine (1.8 g, 5.7 mmol) in DMF (25 mL) was added 2-benzyloxy-5-cyanophenol (1.3 g, 5.8 mmol) and cesium carbonate (2.2 g, 6.8 mmol). The resultant mixture was stirred at 40° C. for 12 hours. The mixture was then cooled to ambient temperature and poured into 100 mL of 0.5 M aqueous KOH solution and 100 mL of ethyl acetate. The aqueous layer was separated and extracted twice further with 100 mL portions of ethyl acetate. The combined organic extracts were washed with 0.5 M aqueous KOH solution (200 mL), then brine (200 mL), dried over MgSO4, filtered, and concentrated in vacuo to afford a yellow solid. Recrystallization from ethyl acetate/hexanes afforded 2.4 g (82% yield) of 4-benzyloxy-3-[(4-(2-methoxycarbonylphenyl)thio-3,5,6-trifluoropyridin-2-yl)oxy]benzonitrile, a compound of formula (E), as a white, crystalline solid: NMR (CDCl3) 8.0 (m, 1), 7.5 (m, 2), 7.4-7.1 (m, 8), 6.8 (br t, 1), 5.2 (s, 2), 4.0 (s, 3) ppm.

reactant | 4-(2-methoxycarbonylphenyl)thio-2,3,5,6-tetrafluoropyridine | 5.7 mmol, 1.8 g | COC(=O)C1=C(C=CC=C1)SC1=C(C(=NC(=C1F)F)F)F | C13H7F4NO2S
reactant | 2-benzyloxy-5-cyanophenol | 5.8 mmol, 1.3 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)C#N)O | C14H11NO2
reactant | cesium carbonate | 6.8 mmol, 2.2 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | KOH | 0.5 M, 100 mL | [OH-].[K+]
solvent | DMF | 25 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | 4-benzyloxy-3-[(4-(2-methoxycarbonylphenyl)thio-3,5,6-trifluoropyridin-2-yl)oxy]benzonitrile | 2.4 g, 82% yield | C(C1=CC=CC=C1)OC1=C(C=C(C#N)C=C1)OC1=NC(=C(C(=C1F)SC1=C(C=CC=C1)C(=O)OC)F)F | C27H17F3N2O4S
